US05840732
iii) Synthesis of 3-[3-(imidazo[1,2-a]pyridin-8-yloxy)propyl]thiazolidine-2,4-dione
To a solution of 4.01 g (15 mmol) of 3-[3-(2-aminopyridin-3-yloxy)propyl]thiazolidine-2,4-dione in 40 ml of ethanol, 15 ml of a 40% chloroacetaldehyde solution was added at 60° C., followed by refluxing for 2 hours. After the reaction mixture was cooled, the solvent was distilled off. The residue was dissolved in chloroform, washed with saturated aqueous sodium hydrogen carbonate and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, n-hexane/ethyl acetate=1/4) to yield 2.92 g (66.8%, white powder) of the desired product.

reactant | 3-[3-(2-aminopyridin-3-yloxy)propyl]thiazolidine-2,4-dione | 15 mmol, 4.01 g | NC1=NC=CC=C1OCCCN1C(SCC1=O)=O | C11H13N3O3S
reactant | chloroacetaldehyde | ClCC=O | C2H3ClO
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-[3-(imidazo[1,2-a]pyridin-8-yloxy)propyl]thiazolidine-2,4-dione | N=1C=CN2C1C(=CC=C2)OCCCN2C(SCC2=O)=O | C13H13N3O3S
